US08003649B2
Preparation of 6-[(3S)-3-(pyridin-3-yloxy)pyrrolidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine
The (3R)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]pyrrolidin-3-ol used as starting material was prepared in 81% yield by an analogous method to Example 216, preparation of starting materials, starting from 6-chloro-3-(trifluoromethyl)-[1,2,4]-triazolo[4,3-b]pyridazine and (R)-pyrrolidin-3-ol.

reactant | (3R)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]pyrrolidin-3-ol | FC(C1=NN=C2N1N=C(C=C2)N2C[C@@H](CC2)O)(F)F | C10H10F3N5O
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]-triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | (R)-pyrrolidin-3-ol | N1C[C@@H](CC1)O | C4H9NO
product | 6-[(3S)-3-(pyridin-3-yloxy)pyrrolidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | N1=CC(=CC=C1)O[C@@H]1CN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C15H13F3N6O
